US06962914B2
To a cold (−78° C.) solution of ethyl 7-(cyclopentylamino)-3-[2-(cyclopentylamino)-4-pyrimidinyl]-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridine-6-carboxylate (50 mg, 0.095 mmol) in dichloromethane (1 mL) was added diisobutylaluminum hydride (490 μL, 1.0 M in hexanes, 0.49 mmol). The reaction mixture was stirred at −78° C. for 2 hours then poured into a stirring mixture of ether and aqueous Rochelle's salt (sodium potassium tartrate) solution. The resultant mixture was stirred at room temperature for 16 hours. The organic layer was separated and the aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with water and brine. Concentration followed by flash chromatography on silica (29:1 dichloromethane:methanol) provided [7-(cyclopentylamino)-3-[2-(cyclopentylamino)-4-pyrimidinyl]-2-(4-fluorophenyl)pyrazolo-[1,5-a]pyridin-6-yl]methanol (27 mg, 59%) as a green solid. Rf 0.26 (29:1 dichloromethane:methanol); 1H NMR (300 MHz, CDCl3): δ 7.99 (d, 1H), 7.70 (d, 1H), 7.61 (m, 2H), 7.23 (d, 1H), 7.13 (t, 2H), 6.29-6.24 (m, 2H), 5.08 (d, 1H), 4.79 (s, 2H), 4.47 (broad, 1H), 4.29 (m, 1H), 2.09-1.99 (m, 4H), 1.85-1.48 (m, 12H); MS m/z 487 (M+1).

reactant | ethyl 7-(cyclopentylamino)-3-[2-(cyclopentylamino)-4-pyrimidinyl]-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridine-6-carboxylate | 0.095 mmol, 50 mg | C1(CCCC1)NC1=C(C=CC=2N1N=C(C2C2=NC(=NC=C2)NC2CCCC2)C2=CC=C(C=C2)F)C(=O)OCC | C30H33FN6O2
reactant | diisobutylaluminum hydride | 0.49 mmol, 1.0 M, 490 μL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ether | CCOCC | C4H10O
reactant | Rochelle's salt | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | [7-(cyclopentylamino)-3-[2-(cyclopentylamino)-4-pyrimidinyl]-2-(4-fluorophenyl)pyrazolo-[1,5-a]pyridin-6-yl]methanol | 27 mg, 59% | C1(CCCC1)NC1=C(C=CC=2N1N=C(C2C2=NC(=NC=C2)NC2CCCC2)C2=CC=C(C=C2)F)CO | C28H31FN6O
